US07897597B2
8-Benzyloxy-4-chloro-1-(2-methylpropyl)-2-methoxymethyl-1H-imidazo[4,5-c]quinoline (2.73 g, 6.65 mmol) was stirred for 1 hour in 25 mL of 30% hydrogen bromide in acetic acid at 65° C. The reaction was cooled in an ice bath and aqueous NaOH (50%) was added to adjust the pH to 7. The precipitate was recovered by filtration and air dried to provide 2.75 g of 4-bromo-1-(2-methylpropyl)-2-methoxymethyl-1H-imidazo[4,5-c]quinolin-8-ol as a brown solid.

reactant | 8-Benzyloxy-4-chloro-1-(2-methylpropyl)-2-methoxymethyl-1H-imidazo[4,5-c]quinoline | 6.65 mmol, 2.73 g | C(C1=CC=CC=C1)OC1=CC=2C3=C(C(=NC2C=C1)Cl)N=C(N3CC(C)C)COC | C23H24ClN3O2
reactant | NaOH | [OH-].[Na+]
reactant | hydrogen bromide | 25 mL | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-bromo-1-(2-methylpropyl)-2-methoxymethyl-1H-imidazo[4,5-c]quinolin-8-ol | 2.75 g | BrC1=NC=2C=CC(=CC2C2=C1N=C(N2CC(C)C)COC)O | C16H18BrN3O2
